US07585885B2
N-Methyl-N-propyl-5-(pyridine-3-carbonyl)-isophthalamic acid methyl ester
Add THF (3 mL), N-methyl-N-propyl-5-tributylstannanyl-isophthalamic acid methyl ester (0.524 g, 1.00 mmol), nicotinoyl chloride hydrochloride (0.232 g, 1.30 mmol), 2-(di-tert-butylphosphino)biphenyl (0.045 g, 0.151 mmol), bis(dibenzylidene-acetone)palladium (0) (029 g, 0.05 mmol) to a sealed tube flushed with nitrogen. Heat the mixture at 50° C. for 16 h and cool to room temperature. Filter the mixture though a filtering agent, concentrate and purify (silica gel chromatography, eluting with 50:50 to 100:0 ethyl acetate:hexanes) to give the title compound (0.070 g, 21%).

reactant | N-methyl-N-propyl-5-tributylstannanyl-isophthalamic acid methyl ester | 1.00 mmol, 0.524 g | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)[Sn](CCCC)(CCCC)CCCC)=O
reactant | nicotinoyl chloride hydrochloride | 1.30 mmol, 0.232 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.151 mmol, 0.045 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
catalyst | bis(dibenzylidene-acetone)palladium (0) | 0.05 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-Methyl-N-propyl-5-(pyridine-3-carbonyl)-isophthalamic acid methyl ester | 0.070 g, 21% | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(=O)C=1C=NC=CC1)=O | C19H20N2O4
